US07951794B2
A solution of 4-[(5-ethyl-4-phenyl-thiophen-2-yl)-3-oxo-propenyl]-benzaldehyde (140 mg, 0.405 mmol) and azetidine-3-carboxylic acid (51 mg, 0.506 mmol) and NaBH(OAc)3 (257 mg, 1.21 mmol) in THF (6 mL) is stirred at rt for 6 h. The reaction mixture is diluted with a small amount of methanol and DCM (150 mL) and washed with water. The organic phase is separated and the aqueous phase again extracted with DCM. The combined organic extracts are dried over MgSO4 and evaporated. The residue is suspended in methanol, filtered and dried. The solid material obtained is suspended in DMF/methanol and treated with Pd/C (20 mg, 10% Pd). The slurry is stirred under 1.5 bar of H2 at rt for 16 h. The mixture is filtered and the filtrate is evaporated and dried to give 1-{4-[3(5-ethyl-4-phenyl-thiophen-2-yl)-3-oxo-propyl]benzyl}azetidine-3-carboxylic acid (15 mg) as a colourless solid; LC-MS: tR=0.89 min, [M+1]+=434.17.

reactant | 4-[(5-ethyl-4-phenyl-thiophen-2-yl)-3-oxo-propenyl]-benzaldehyde | 0.405 mmol, 140 mg | C(C)C1=C(C=C(S1)C(C=CC1=CC=C(C=O)C=C1)=O)C1=CC=CC=C1 | C22H18O2S
reactant | azetidine-3-carboxylic acid | 0.506 mmol, 51 mg | N1CC(C1)C(=O)O | C4H7NO2
reactant | NaBH(OAc)3 | 1.21 mmol, 257 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
solvent | DMF methanol | CN(C)C=O.CO
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | 1-{4-[3(5-ethyl-4-phenyl-thiophen-2-yl)-3-oxo-propyl]benzyl}azetidine-3-carboxylic acid | 15 mg | C(C)C1=C(C=C(S1)C(CCC1=CC=C(CN2CC(C2)C(=O)O)C=C1)=O)C1=CC=CC=C1 | C26H27NO3S
